US08426447B2
A 2-5 mL microwave vial was charged with (S)-2-amino-2′-(cyclopropylethynyl)-5H-spiro[oxazole-4,9′-xanthen]-7′-ol (0.250 g, 0.752 mmol), cesium carbonate (0.980 g, 3.01 mmol), and DMF (3.01 mL). The mixture was stirred vigorously for 5 min, then 1-iodo-2-methoxy-2-methylpropane (0.303 mL, 2.257 mmol) was added via syringe. The vial was sealed and the reaction was microwaved at 110° C. for two hours. The mixture was diluted with water and EtOAc and the layers were separated, and the aqueous layer was extracted twice with EtOAc. The combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The residue was purified by chromatography on a 12-g Redi-Sep column, eluting with 0-10% MeOH/DCM to provide (S)-2′-(cyclopropylethynyl)-7′-(2-methoxy-2-methylpropoxy)-5H-spiro[oxazole-4,9′-xanthen]-2-amine as an off-white solid.

reactant | (S)-2-amino-2′-(cyclopropylethynyl)-5H-spiro[oxazole-4,9′-xanthen]-7′-ol | 0.752 mmol, 0.250 g | NC=1OC[C@]2(C3=CC(=CC=C3OC=3C=CC(=CC23)C#CC2CC2)O)N1 | C20H16N2O3
reactant | cesium carbonate | 3.01 mmol, 0.980 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 3.01 mL | CN(C)C=O | C3H7NO
reactant | 1-iodo-2-methoxy-2-methylpropane | 2.257 mmol, 0.303 mL | ICC(C)(C)OC | C5H11IO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-2′-(cyclopropylethynyl)-7′-(2-methoxy-2-methylpropoxy)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | C1(CC1)C#CC1=CC=2[C@@]3(C4=CC(=CC=C4OC2C=C1)OCC(C)(C)OC)N=C(OC3)N | C25H26N2O4
